US07838543B2
Step 2. 4′-Fluoro-biphenyl-4-carboxylic acid (2-chloro-benzothiazol-6-yl)-amide
Add oxalyl chloride (10 mL, 114.6 mmol) and DMF (4 drops) to a stirring suspension of 4′-fluoro-biphenyl-4-carboxylic acid (4.9 g, 22.7 mmol) in CH2Cl2 (150 mL). Stir the reaction mixture at room temperature for 3 h. Concentrate the mixture in vacuo, add n-hexane, re-concentrate, and re-dissolve in CH2Cl2. Add the resultant 4′-fluoro-biphenyl-4-carbonyl chloride solution to a mixture of 2-chloro-benzothiazol-6-ylamine (3.31 g, 17.9 mmol) and pyridine (3.0 mL) in CH2Cl2 (150 mL). Stir the reaction mixture overnight at room temperature. Dilute the reaction mixture with CH2Cl2. Wash the reaction mixture twice with 1.0M HCl and once with 1.0M NaOH. Dry the mixture over Na2SO4, concentrate in vacuo, and triturate with MeOH to yield the desired product (6.34 g, 93%). 1H NMR (400 MHz, DMSO-d6): δ10.59 (s, 1H), 8.69 (d, J=1.6 Hz, 1H), 8.09 (d, J=8.0 Hz, 2H), 7.96 (d, J=8.8 Hz, 1H), 7.87-7.79 (m, 5H), 7.38-7.31 (m, 2H).

reactant | oxalyl chloride | 114.6 mmol, 10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4′-fluoro-biphenyl-4-carboxylic acid | 22.7 mmol, 4.9 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
reactant | 2-chloro-benzothiazol-6-ylamine | 17.9 mmol, 3.31 g | ClC=1SC2=C(N1)C=CC(=C2)N | C7H5ClN2S
reactant | pyridine | 3.0 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4′-Fluoro-biphenyl-4-carboxylic acid (2-chloro-benzothiazol-6-yl)-amide | 6.34 g, 93% | ClC=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)F | C20H12ClFN2OS
